US05470878
A solution of 1-(10-undecenyl)-3,7-dimethylxanthine, prepared above (4.3 g, 13 mmol), 4-methylmorpholine-N-oxide (1.942 g, 16.6 mmol) and potassium osmate dihydrate (9.5 mg; 0.026 mmol) in acetone (45 mL) and water (10 mL) was stirred for 6 hours. A solution of 20% aqueous sodium sulphite (12 ml) was added and stirred for 30 minutes. The reaction mixture was extracted with 25% ethanol/dichloromethane (4×100 mL). The combined organic extracts were dried over anhydrous magnesium sulfate, concentrated under reduced pressure and purified by flash chromatography over silica gel using a methanol/5% dichloromethane eluent to obtain 3.6 g of 1-(10,11-dihydroxyundecanyl)-3,7-dimethylxanthine (yield, 76%).

reactant | 1-(10-undecenyl)-3,7-dimethylxanthine | C(CCCCCCCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C18H28N4O2
reactant | 4-methylmorpholine-N-oxide | 16.6 mmol, 1.942 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium sulphite | 12 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | acetone | 45 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
product | 1-(10,11-dihydroxyundecanyl)-3,7-dimethylxanthine | 3.6 g, 76% | OC(CCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C18H30N4O4
